US08445501B2
trans-4-(2-Cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-acetylamino)-cyclohexyl]-amide
Starting from trans-4-(2-cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A170) and methoxy-acetyl chloride the title compound is obtained as colorless solid.

reactant | trans-4-(2-cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)C)OCC2CC2 | C24H29N5O2
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | trans-4-(2-Cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-acetylamino)-cyclohexyl]-amide | COCC(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)C)OCC2CC2 | C27H33N5O4
